US06506780B2
A mixture of 344 mg (2.0 mmol) 4-methoxybenzene sulfinic acid, 688 mg (4.0 mmol) 1-naphthyl boronic acid, 1.39 mL (10.0 mmol) triethylamine, 363 mg (2.0 mmol) cupric acetate, 350 mg 4A molecular sieves, and 10 mL dry dimethylsulfoxide was stirred under a stream of air for 36 hours. The mixture was then poured into dilute aqueous hydrochloric acid, extracted into ethyl acetate, and the organic layer washed with water, aqueous sodium bicarbonate solution, and brine, dried over sodium sulfate, and evaporated. The residue was chromatographed on silica gel using ethyl acetate/hexane as eluant to afford 240 mg (40%) of 4-(1-napthylsulfonyl)phenol as an oil.

reactant | 4-methoxybenzene sulfinic acid | 2.0 mmol, 344 mg | COC1=CC=C(C=C1)S(=O)O | C7H8O3S
reactant | 1-naphthyl boronic acid | 4.0 mmol, 688 mg | C1(=CC=CC2=CC=CC=C12)B(O)O | C10H9BO2
reactant | triethylamine | 10.0 mmol, 1.39 mL | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylsulfoxide | 10 mL | CS(=O)C | C2H6OS
product | 4-(1-napthylsulfonyl)phenol | 240 mg, 40% | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)C1=CC=C(C=C1)O | C16H12O3S
